US04879300
(A) 2-[1-(1-pyrrolidinyl)ethyl]pyridine
Ml 11.2 (0.1 moles) of 2-acetylpyridine (commercial product) and ml.16.5 (0.2 moles) of pyrrolidine were dissolved in ml.120 of dry methanol, and the solution was brought to pH 8 by adding HCl dissolved in methanol. Gr.9.4 (0.15 moles) of NaCNBH3 were added in small portions and the reaction mixture stirred 48 hours at room temperature. The mixture was brought to strongly basic pH by adding aqueous 20% NaOH, a small amount of insoluble filtered off, and the filtrate concentrated to small volume i.v. The residue was taken up in ether, the phases separated, and the aqueous layer extracted with ether. The combined ether solutions were washed with 20% aqueous Na OH, saturated aqueous NaCl and finally dried on NaOH pellets and evaporated to dryness i.v. 23 g. of red oil were obtained, and were chromatographed on 120 g. of silicagel, eluting with CH2Cl2 containing increasing amounts of metanol (0.5% to 8%). Gr 16 of oily product were obtained, sufficiently pure for the subsequent step.

reactant | 2-acetylpyridine | C(C)(=O)C1=NC=CC=C1 | C7H7NO
reactant | pyrrolidine | N1CCCC1 | C4H9N
reactant | HCl | Cl | ClH
reactant | NaCNBH3 | 0.15 moles | [BH3-]C#N.[Na+]
reactant | NaOH | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | 2-[1-(1-pyrrolidinyl)ethyl]pyridine | N1(CCCC1)C(C)C1=NC=CC=C1 | C11H16N2
